US09315475B2
Step 1. (R)-3-(2-Bromoacetyl)-4-phenyloxazolidin-2-one
A solution of (4R)-4-phenyl-1,3-oxazolidin-2-one (100 g, 613 mmol) in THF (2 L) under a nitrogen atmosphere was cooled to −78° C. in dry ice-acetone bath. To the stirred solution was added n-BuLi (337 mL, 2 M solution in cyclohexane, 675 mmol) dropwise over a period of 30 min, followed by the addition of 2-bromoacetyl bromide (123.7 g, 613 mmol) over 15 min. The resulting solution was stirred at 25° C. for 2 h. The reaction was quenched with aqueous NH4Cl (500 mL), and the mixture was extracted three times with EtOAc (3×1 L). The combined organic extracts were washed with water (500 mL) and brine (500 mL), dried (MgSO4), filtered, and the solvent was removed under reduced pressure to give the title compound as a brown solid. The crude product was used directly in the next step.

reactant | (4R)-4-phenyl-1,3-oxazolidin-2-one | 613 mmol, 100 g | C1(=CC=CC=C1)[C@H]1NC(OC1)=O | C9H9NO2
reactant | n-BuLi | 675 mmol, 2 M, 337 mL | [Li]CCCC
reactant | 2-bromoacetyl bromide | 613 mmol, 123.7 g | BrCC(=O)Br | C2H2Br2O
solvent | THF | 2 L | C1CCOC1 | C4H8O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
product | (R)-3-(2-Bromoacetyl)-4-phenyloxazolidin-2-one | BrCC(=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C11H10BrNO3
